US08563542B2
Reaction of 1-cyclopentylaminomethyl-cyclobutanecarboxylic acid methyl ester with 2,4-dichloro-5-nitropyrimidine and K2CO3 in acetone gave 1-{[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-cyclobutanecarboxylic acid methyl ester

reactant | 1-cyclopentylaminomethyl-cyclobutanecarboxylic acid methyl ester | COC(=O)C1(CCC1)CNC1CCCC1 | C12H21NO2
reactant | 2,4-dichloro-5-nitropyrimidine | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-{[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-cyclobutanecarboxylic acid methyl ester | COC(=O)C1(CCC1)CN(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl | C16H21ClN4O4
